US07943619B2
c) 3-(3-Fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester
To a solution of (E)- and/or (Z)-N-hydroxy-3-fluoro-benzenecarboximidoyl chloride (11.1 g, 64 mmol) in diethylether (151 mL) was added ethyl 2-butynoate (7.2 g, 7.5 mL, 64 mmol) at 0° C. followed by the dropwise addition of triethylamine (7.8 g, 10.7 mL, 77 mmol) and the resulting mixture allowed to warm up to room temperature overnight. The mixture was then poured onto ice-water, and extracted with diethylether. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (6.3 g, 39%) which was obtained as a white solid. MS: m/e=250.1 [M+H]+.

reactant | (Z)-N-hydroxy-3-fluoro-benzenecarboximidoyl chloride | 64 mmol, 11.1 g | O\N=C(\C1=CC(=CC=C1)F)/Cl | C7H5ClFNO
reactant | ethyl 2-butynoate | 64 mmol, 7.5 mL, 7.2 g | C(C#CC)(=O)OCC | C6H8O2
reactant | triethylamine | 77 mmol, 10.7 mL, 7.8 g | C(C)N(CC)CC | C6H15N
solvent | diethylether | 151 mL | C(C)OCC | C4H10O
product | 3-(3-Fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 6.3 g, 39% | C(C)OC(=O)C=1C(=NOC1C)C1=CC(=CC=C1)F | C13H12FNO3
